2110-01-17 05:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:   Fatigue/ palpitations
   24 Hour Events:
   Pt. was given diltiazem 10mg IV w/o effect on HR, continued to be in
   afib.  SBP > 100mmHg.  Given CHF signs, no more fluids given while on
   floor.  She was started on Amiodarone bolus followed by drip.  With
   this, she converted to SR at 0000, pt. was asymptomatic.  Able to move
   around and go to commode w/o complaints.
   Guiac negative stools today.  SC heparin being refused by patient.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Diltiazem - [**2110-1-16**] 09:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-1-17**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.8
C (96.5
   HR: 72 (72 - 147) bpm
   BP: 116/57(71) {94/57(67) - 137/77(96)} mmHg
   RR: 23 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Tele: Sinus in 70s, missed beats.
   Total In:
                                                                  5,171 mL
                                                                    248 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     51 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    240 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,771 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric, but pale. PERRL, EOMI. dMM.
   NECK: No JVP 8cm w/ bed elevated @ 20degrees.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR
   w/o m  S4 persent.
   LUNGS: No crackles posterior lung fields.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c. +1 LE edema.
   SKIN: LE with chronic venous stasis changes.  TTP, warm, dry.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+
   Labs / Radiology
   178 K/uL
   11 g/dL
   176 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   17mg/dL
   104 mEq/L
   138 mEq/L
   32.5 %
   7.5
        [image002.jpg] UA negative, UCx
 pending.
                             [**2110-1-16**]  08:35 PM
                             [**2110-1-16**]  10:00 PM
   WBC
   9.0
   Hct
   33.6
   Plt
   186
   Cr
   0.6
   TropT
   <0.01
   Glucose
   176
   Other labs: PT / PTT / INR:14.0/26.5/1.2, CK / CKMB /
   Troponin-T://<0.01, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   89 yo F with PMH of DM2, diastolic CHF, aflutter, gout and presented
   with continued fatigue and tachycardia noted by PT at rehab.
   .
   # RHYTHM: Atrial fibrillation, reccurent. She is s/p failed
   cardioversion (x2), w/ hx of reversion to SR w/ volume resuscitation.
   Pt. did not repsond to diltiazem, possibly [**3-16**] volume depletion.
   Clearly not responding to volume resuscitation this time around.  The
   cause of afib is unclear, bu likely [**3-16**] structural disease w/ [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 3038**].  No pulm or infectious causes apparent. Pt. may have become
   tachy [**3-16**] volume depletion (GIB or poor PO intake).  in addition, pt.
   is volume overloaded, likely contributing. Possibly also contributed to
   by hypocalcemia, but unsure if the lab results from ED are valid. Per
   previous OMR d/c summary, she was poor candidate for  anticoagulation
   with coumadin and patient and daughter were in agreement of not
   anticoagulating.  Per discussion w/ daughter, comfort is the goal of
   care at this point.
   -monitor on tele
   - continue asa
   - F/u ECG in AM.
   - Will discuss w/ family and PCP further goals of therapy regarding
   antiarrhythmic as OP, will start Amiodarone PO in the meantime, and
   this can be removed as decisions are made.
   - Holding PO dilitiazem.
   - If patient to continue w/ Amiodarone, will need baseline LFTs, RFTs,
   PFTs.
   .
   # PUMP.  Diastolic CHF, most recent echo w/ LVEF > 65%, symmetric LVH
   and elevated PAP.  On lasix 80mg QD at rehab.  Currently volume
   overloaded on exam, but will hold diuresis given recent hx of
   hypotension are 5L IVF resuscitation in ED. Pt. likely requiring this
   given loss of atrial kick and impaired relaxation.
   - Monitor I/Os.
   - Holding lasix until pt. converted to sinus rhythm and given recent
   hypotension, will likely restart once converts.
   .
   # CORONARIES.  CAD documented on previous D/C summaries.  No
   documentation of coronary anatomy in OMR.  Pt. w/o anginal sx currently
   but had SOB as anginal equivalent.  No lipid panel in OMR.  Will
   discuss w/ PCP the utility of assessing further, given goals of care.
   - Continue ASA
   - Discuss lipid panel today  w/ PCP.
   .
   # Hypotension in ED.  Now resolved. Likely from rapid rate and
   hypovolemia (unclear source of this).
   -monitor
   -hold dilt for now, will consider best antiarrhythmic in this patient
   for rate control vs. rhythm contorol
   -holding lasix for now
   .
   # Abnormal CXR.  Opacities b/l.  No clinical sings of PNA, no fever,
   WBC count, productive cough.  Likely resolving infiltrates from prior
   PNA.
   - No indicatin for ABx.
   - Will monitor fever curve, WBCs and sx.
   .
   # Electrolyte abnormalities.  Unclear source. Pt. on lasix, but CBC
   erroneous from ED labs.  Repeat chemistries pending.
   - will reassess and replete lytes prn.
   .
   # Diabetes type 2 with complications: hold oral agents and use insulin
   SS for now. Check finger sticks.
   .
   # Gout: continue allopurinol and colchicine
   .
   # Osteoporosis: continue calcium and vitamin D
   .
   # FEN: heart healthy, diabetic diet. hold IVF for now.
   # ACCESS: PIVs (femoral pulled)
   # PROPHYLAXIS:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen
   #CODE: DNR/DNI, No pressors.
   #DISPO: PT consult today to eval for return to rehab.  Also discussion
   regarding goals of care to be held w/ PCP and Family today, regarding
   possible hospice care initiation.  .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-1-16**] 09:27 PM
   20 Gauge - [**2110-1-16**] 09:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-01-18 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   89 yo F with PMH of DM2, diastolic CHF, aflutter, gout and presented
   fatigue and tachycardia found to be in a.fib which broke with
   amiodarone.
   24 Hour Events:
 EKG - At [**2110-1-17**] 09:00 PM
 CHEST PAIN - At [**2110-1-17**] 09:00 PM
   Has remained in nl sinus rhythm.  Will be discharged home on 200 mg of
   amiodarone daily as an outpatient.  Stayed for diuresis and hospice to
   be set up and then will go back to rehab.  Had her home dose of lasix
   at 80 mg daily restarted today.  Also had liquid morphine started (with
   compazine prn) for SOB for comfort.  Had pm lytes at 8 pm given
   diuretics restarted.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2110-1-18**] 03:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-1-18**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 89 (69 - 150) bpm
   BP: 143/59(79) {109/49(67) - 176/98(128)} mmHg
   RR: 25 (11 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,704 mL
                                                                    363 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    744 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  5,290 mL
                                                                    190 mL
   Urine:
                                                                  4,970 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,586 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric, but pale. PERRL, EOMI. dMM.
   NECK: No JVP 8cm w/ bed elevated @ 20degrees.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR
   w/o m  S4 persent.
   LUNGS: No crackles posterior lung fields.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c. +1 LE edema.
   SKIN: LE with chronic venous stasis changes.  TTP, warm, dry.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+
   Labs / Radiology
   178 K/uL
   11.0 g/dL
   212 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   32.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2110-1-16**]  08:35 PM
                             [**2110-1-16**]  10:00 PM
                             [**2110-1-17**]  05:00 AM
   WBC
   9.0
   7.5
   Hct
   33.6
   32.5
   Plt
   186
   178
   Cr
   0.6
   0.5
   TropT
   <0.01
   Glucose
   176
   212
   Other labs: PT / PTT / INR:14.0/26.5/1.2, CK / CKMB /
   Troponin-T://<0.01, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   89 yo F with PMH of DM2, diastolic CHF, aflutter, gout and presented
   with continued fatigue and tachycardia noted by PT at rehab.
   .
   # RHYTHM: Atrial fibrillation, reccurent. She is s/p failed
   cardioversion (x2), w/ hx of reversion to SR w/ volume resuscitation.
   Pt. did not repsond to diltiazem, possibly [**3-16**] volume depletion.
   Clearly not responding to volume resuscitation this time around.  The
   cause of afib is unclear, bu likely [**3-16**] structural disease w/ [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 3038**].  No pulm or infectious causes apparent. Pt. may have become
   tachy [**3-16**] volume depletion (GIB or poor PO intake).  in addition, pt.
   is volume overloaded, likely contributing. Possibly also contributed to
   by hypocalcemia, but unsure if the lab results from ED are valid. Per
   previous OMR d/c summary, she was poor candidate for  anticoagulation
   with coumadin and patient and daughter were in agreement of not
   anticoagulating.  Per discussion w/ daughter, comfort is the goal of
   care at this point.
   -monitor on tele
   - continue asa
   - F/u ECG in AM.
   - Will discuss w/ family and PCP further goals of therapy regarding
   antiarrhythmic as OP, will start Amiodarone PO in the meantime, and
   this can be removed as decisions are made.
   - Holding PO dilitiazem.
   - If patient to continue w/ Amiodarone, will need baseline LFTs, RFTs,
   PFTs.
   .
   # PUMP.  Diastolic CHF, most recent echo w/ LVEF > 65%, symmetric LVH
   and elevated PAP.  On lasix 80mg QD at rehab.  Currently volume
   overloaded on exam, but will hold diuresis given recent hx of
   hypotension are 5L IVF resuscitation in ED. Pt. likely requiring this
   given loss of atrial kick and impaired relaxation.
   - Monitor I/Os.
   - Holding lasix until pt. converted to sinus rhythm and given recent
   hypotension, will likely restart once converts.
   .
   # CORONARIES.  CAD documented on previous D/C summaries.  No
   documentation of coronary anatomy in OMR.  Pt. w/o anginal sx currently
   but had SOB as anginal equivalent.  No lipid panel in OMR.  Will
   discuss w/ PCP the utility of assessing further, given goals of care.
   - Continue ASA
   - Discuss lipid panel today  w/ PCP.
   .
   # Hypotension in ED.  Now resolved. Likely from rapid rate and
   hypovolemia (unclear source of this).
   -monitor
   -hold dilt for now, will consider best antiarrhythmic in this patient
   for rate control vs. rhythm contorol
   -holding lasix for now
   .
   # Abnormal CXR.  Opacities b/l.  No clinical sings of PNA, no fever,
   WBC count, productive cough.  Likely resolving infiltrates from prior
   PNA.
   - No indicatin for ABx.
   - Will monitor fever curve, WBCs and sx.
   .
   # Electrolyte abnormalities.  Unclear source. Pt. on lasix, but CBC
   erroneous from ED labs.  Repeat chemistries pending.
   - will reassess and replete lytes prn.
   .
   # Diabetes type 2 with complications: hold oral agents and use insulin
   SS for now. Check finger sticks.
   .
   # Gout: continue allopurinol and colchicine
   .
   # Osteoporosis: continue calcium and vitamin D
   .
   # FEN: heart healthy, diabetic diet. hold IVF for now.
   # ACCESS: PIVs (femoral pulled)
   # PROPHYLAXIS:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen
   #CODE: DNR/DNI, No pressors.
   #DISPO: PT consult today to eval for return to rehab.  Also discussion
   regarding goals of care to be held w/ PCP and Family today, regarding
   possible hospice care initiation.  .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-1-18**] 12:00 AM
   22 Gauge - [**2110-1-18**] 03:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2110-01-19 05:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Was back in afib overnight [**Date range (1) 3118**], was given amio bolus and started
   on gtt 1mg/min X 6 hours, then 0.5 mg/min X 18 hours.  Then put on PO
   amio 200mg daily.  Was back in NSR in AM [**2110-1-18**] and stayed in NSR
   afterwards.  Was called out but pt requested to stay in ICU.  We will
   likely d/c to rehab in AM.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-1-19**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 66 (62 - 113) bpm
   BP: 132/70(85) {102/57(73) - 154/127(130)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    850 mL
                                                                     29 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    610 mL
                                                                     29 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    200 mL
   Urine:
                                                                  1,280 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                   -171 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD. Elderly female lying in bed in NAD, alert and
   appropriate.
   HEENT: NCAT. OP clear, MM dry
   NECK: No JVP 8cm
   CARDIAC: RRR, no MRG
   LUNGS: A few crackles at the  bases b/l
   ABDOMEN: +BS, Soft, NTND.
   EXTREMITIES: No c/c. trace LE edema.
   SKIN: LE with chronic venous stasis changes.  TTP, warm, dry.
   Labs / Radiology
   242 K/uL
   12.2 g/dL
   226 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   16 mg/dL
   99 mEq/L
   137 mEq/L
   35.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2110-1-16**]  08:35 PM
                             [**2110-1-16**]  10:00 PM
                             [**2110-1-17**]  05:00 AM
                             [**2110-1-18**]  06:27 AM
   WBC
   9.0
   7.5
   9.0
   Hct
   33.6
   32.5
   35.1
   Plt
   186
   178
   242
   Cr
   0.6
   0.5
   0.6
   TropT
   <0.01
   Glucose
   176
   212
   226
   Other labs: PT / PTT / INR:14.0/25.6/1.2, CK / CKMB /
   Troponin-T://<0.01, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   89 yo F with PMH of DM2, diastolic CHF, aflutter, gout and presented
   with continued fatigue and tachycardia noted by PT at rehab found to be
   in a.fib.
   # RHYTHM: Patient had converted from a.fib on admission when given
   Amiodarone, however she went back into afib overnight.  Continues to go
   in and out of a.fib.  Was given an Amiodarone bolus and started on an
   infusion overnight.
   -  Continue Amiodarone infusion (already received 1 mg/kg for 6 hours,
   now getting 0.5 mg/kg for 18 hours); once finished will restarted
   Amiodarone 200 mg daily
   -  In the past there was discussion about anticoagulation and it was
   decided that she is not a good candidate given her age and risk for
   bleeding.  No anticoagulation.
   -  Will start Metoprolol 25 mg tid for rate control with Amiodarone.
   -  Will monitor for bradycardia and QT interval prolongation on
   Amiodarone.
   .
   # PUMP.  Diastolic CHF, most recent echo w/ LVEF > 65%, symmetric LVH
   and elevated PAP.  On lasix 80mg QD at rehab.  Patient put out over 3 L
   yesterday to the 80 mg of lasix.
   - Monitor I/Os.
   - Will decrease her lasix to 40 mg daily, given her large output to 80
   mg.
   - Morphine prn for SOB
   # CORONARIES.  CAD documented on previous D/C summaries.  No
   documentation of coronary anatomy in OMR.  Pt. w/o anginal sx currently
   but had SOB as anginal equivalent.
   - Continue ASA
   # Diabetes type 2 with complications: hold oral agents and use insulin
   SS for now. Check finger sticks.
   # Gout: continue allopurinol and colchicine
   # Osteoporosis: continue calcium and vitamin D
   # FEN: heart healthy, diabetic diet. hold IVF for now.
   # ACCESS: PIVs
   # PROPHYLAXIS:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen
   #CODE: DNR/DNI, No pressors.   Patient will be transitioning to hospice
   in the near future.
   #DISPO: patient can be called out to the floor and can likely go back
   to rehab tomorrow once she is finished with the Amiodarone loading.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-1-18**] 12:00 AM
   22 Gauge - [**2110-1-18**] 03:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: